US06903118B1
a) 1-diphenylmethyl-4-(3-chloropropanesulfonyl)-piperazine
39.2 g (155 mmol) benzhydrylpiperazine and 19.7 ml (141 mmol) TEA are present in 100 ml absolute dichloromethane and cooled to ca. 0° C. under moisture exclusion. 25 g (141 mmol) 3-chloropropanesulfonyl chloride are dissolved in 70 ml absolute dichloromethane and added dropwise. The mixture is stirred for two hours under cooling and subsequently mixed with chloroform and washed with saturated NaCl solution. The organic phase is dried over sodium sulfate and concentrated under vacuum until dry. The solid is further processed without further purification: yield 59.2 g.

reactant | benzhydrylpiperazine | 155 mmol, 39.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 3-chloropropanesulfonyl chloride | 141 mmol, 25 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1-diphenylmethyl-4-(3-chloropropanesulfonyl)-piperazine | C1(=CC=CC=C1)C(N1CCN(CC1)S(=O)(=O)CCCCl)C1=CC=CC=C1 | C20H25ClN2O2S
